US06949579B2
555 mg of 4-methylphenylboronic acid, 1.24 g of caesium fluoride, 13.5 mg of palladium acetate and finally 31 mg of 2-dicyclohexylphosphine-2-(N,N-dimethylamino)biphenyl are added to 1 g of N-[6-chloro-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 25, in 30 cm3 of dioxane, the mixture is then heated at about 104° C. for 5 hours 30 minutes and the temperature is then allowed to return to room temperature over 16 hours. The reaction medium is diluted with 75 cm3 of ethyl acetate and filtered through a sinter funnel packed with Celite, and the filtrate is concentrated to dryness under reduced pressure (2 kPa; 50° C.). The work-up and the purification are performed by analogy with Example 41. 1.1 g of N-[6-(4-methylphenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are obtained in the form of a yellow oil.

reactant | 4-methylphenylboronic acid | 555 mg | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | caesium fluoride | 1.24 g | [F-].[Cs+]
reactant | N-[6-chloro-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | ClC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26ClN3O2Si
solvent | dioxane | 30 cm3 | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 13.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[6-(4-methylphenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.1 g | CC1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C24H33N3O2Si
